US06369221B1
tert-Butyl 2-methyl-4-trifluoromethoxyphenyl carbamate may be prepared in the following manner: 106 ml of a 1.5 M solution of tert-butyllithium in pentane are added dropwise over 1 hour to a solution, kept at −70° C. under an argon atmosphere, of 20 g of tert-butyl 4-trifluoromethoxyphenylcarbamate in 250 ml of anhydrous tetrahydrofuran. The mixture is stirred for 4 hours at −20° C., cooled to around −70° C., supplemented with 10.3 g of iodomethane and then stirred for 16 hours at a temperature close to 20° C. After hydrolysis with 100 ml of distilled water, the mixture is extracted with three times 60 ml of ethyl acetate. The combined organic extracts are dried over magnesium sulphate and concentrated to dryness under reduced pressure (2 kPa). The product obtained is suspended in petroleum ether, separated by filtration, washed with the same solvent and dried under reduced pressure (2 kPa). 15.1 g of tert-butyl 2-methyl-4-trifluoromethoxyphenylcarbamate are thus obtained in the form of a light orange-coloured solid melting at 98° C.

reactant | tert-butyllithium | C(C)(C)(C)[Li]
reactant | tert-butyl 4-trifluoromethoxyphenylcarbamate | 20 g | FC(OC1=CC=C(C=C1)NC(OC(C)(C)C)=O)(F)F | C12H14F3NO3
reactant | iodomethane | 10.3 g | IC | CH3I
reactant | water | 100 ml | O | H2O
solvent | pentane | CCCCC | C5H12
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | tert-butyl 2-methyl-4-trifluoromethoxyphenylcarbamate | 15.1 g | CC1=C(C=CC(=C1)OC(F)(F)F)NC(OC(C)(C)C)=O | C13H16F3NO3
